US04344958
2-Chloro-4-(((2-imidazolin-2-yl)methyl)thio)-phenol Hydrochloride
A mixture of 19.95 g of 2-chloro-4-(cyanomethylthio)-phenol, 23.3 g of ethylenediamine p-toluenesulfonate and 75 ml of 1,2-dichlorobenzene was heated at 160°-175° C. with stirring under a small flow of nitrogen for 1.5 hours. After cooling the reaction mixture, the 1,2-dichlorobenzene was decanted off. The residue was slurried in water and CH2Cl2 and then basified. The CH2Cl2 layer was separated from the mixture and an insoluble gum obtained. The gum was put in solution in isopropyl alcohol, acidified with hydrochloric acid in isopropyl alcohol and then cooled. The crude product was removed by filtering and recrystallized from isopropyl alcohol. Recrystallized 2-chloro-4-(((2-imidazolin-2-yl)methyl)thio)-phenol hydrochloride was found to have a m.p. of 181°-183° C.

reactant | 2-chloro-4-(cyanomethylthio)-phenol | 19.95 g | ClC1=C(C=CC(=C1)SCC#N)O | C8H6ClNOS
reactant | ethylenediamine p-toluenesulfonate | 23.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CN)N
reactant | 1,2-dichlorobenzene | 75 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-Chloro-4-(((2-imidazolin-2-yl)methyl)thio)-phenol Hydrochloride | Cl.ClC1=C(C=CC(=C1)SCC=1NCCN1)O | InChI=1S/C10H11ClN2OS.ClH/c11-8-5-7(1-2-9(8)14)15-6-10-12-3-4-13-10;/h1-2,5,14H,3-4,6H2,(H,12,13);1H
